US05025015
The N-methyl 2-benzyl-4-chloroaniline (10.8 g) in solution in ethyl acetate is treated at 5° C. with 4.9 ml of bromoacetyl bromide. After 1 hour at room temperature, decantation and washing with water, the solution is concentrated. Upon crystallization, N-methyl 2'-benzyl-4'-chloro-bromoacetanilide is obtained (12.21 g). MP=78° C.

reactant | N-methyl 2-benzyl-4-chloroaniline | 10.8 g | CNC1=C(C=C(C=C1)Cl)CC1=CC=CC=C1 | C14H14ClN
reactant | bromoacetyl bromide | 4.9 ml | BrCC(=O)Br | C2H2Br2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-methyl 2'-benzyl-4'-chloro-bromoacetanilide | CN(C1=C(C=C(C=C1)Cl)CC1=CC=CC=C1)C(CBr)=O | C16H15BrClNO
